US05137538
Preparation of N,N'-bis(β-hydroxyethyl)-N,N'-bis(phenyl)-1,3-diamino-2-propanol
The mixture consisting of 2 moles (274.4 g) of N-β-hydroxyethylaniline, 140 g of calcium carbonate and 1.2 moles (154.8 g) of 1,3-dichloro-2-propanol in 1 liter of water is heated for 6 hours under water reflux.

reactant | N-β-hydroxyethylaniline | 2 moles, 274.4 g | OCCNC1=CC=CC=C1 | C8H11NO
reactant | calcium carbonate | 140 g | C([O-])([O-])=O.[Ca+2]
reactant | 1,3-dichloro-2-propanol | 1.2 moles, 154.8 g | ClCC(CCl)O | C3H6Cl2O
solvent | water | 1 liter | O | H2O
product | N,N'-bis(β-hydroxyethyl)-N,N'-bis(phenyl)-1,3-diamino-2-propanol | OCCN(CC(CN(C1=CC=CC=C1)CCO)O)C1=CC=CC=C1 | C19H26N2O3
